US09238640B2
Preparation of N-(1-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)piperidin-4-yl)benzamide
A mixture of N-(1-(4-formylphenyl)piperidin-4-yl)benzamide (0.350 g, 1.10 mmol), NaHSO3 (0.180 g, 1.70 mmol) and p-TsOH (0.022 g, 0.11 mmol) and 2-amino-4,6-dimethoxybenzamide (0.223 g, 1.10 mmol) in DMA (10 mL) was heated at 150° C. overnight. The mixture was concentrated in vacuo, and the residue was dissolved in EtOAc and washed with H2O and brine, dried (Na2SO4), filtered and concentrated in vacuo. The resulting solid was purified by silica gel chromatography eluting with 10% to 50% CHCl3/MeOH/concentrated NH4OH in CH2Cl2 to afford the title compound (0.050 g, 10%): 1H NMR (300 MHz, DMSO-d6): δ 11.75 (s, 1H), 8.26 (d, J=7.4 Hz, 1H), 8.10 (d, J=9.0 Hz, 2H), 7.83 (d, J=6.9 Hz, 2H), 7.44-7.49 (m, 3H), 7.05 (d, J=8.8 Hz, 2H), 6.68 (s, 1H), 6.46 (s, 1H), 3.93-4.17 (m, 3H), 3.88 (s, 3H), 3.83 (s, 3H), 2.91-3.08 (m, 2H), 1.82-1.93 (m, 2H), 1.52-1.72 (m, 2H); APCI MS m/z 485 [M+H]+.

reactant | N-(1-(4-formylphenyl)piperidin-4-yl)benzamide | 1.10 mmol, 0.350 g | C(=O)C1=CC=C(C=C1)N1CCC(CC1)NC(C1=CC=CC=C1)=O | C19H20N2O2
reactant | NaHSO3 | 1.70 mmol, 0.180 g | OS(=O)[O-].[Na+]
reactant | p-TsOH | 0.11 mmol, 0.022 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | 2-amino-4,6-dimethoxybenzamide | 1.10 mmol, 0.223 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | N-(1-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)piperidin-4-yl)benzamide | 0.050 g, 10% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCC(CC1)NC(C1=CC=CC=C1)=O)=O | C28H28N4O4
